US05292732
N-[2-(4,5-Dihydro-5-methyl-1H-benzo[g]indol-1-yl)ethyl]acetamide (5.0 g) was suspended in 80 ml of toluene under argon, treated with 4.7 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and stirred at 80° C. for 4 hours. A further 1.0 g of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone was added and the mixture was stirred at 80° C. for a further 1 hour. The solution was cooled and filtered over 60 g of aluminium oxide (neutral, III) with ethyl acetate as the eluent. The filtrate was concentrated and yielded 0.3 g (6%) of N-[2-(5-methyl-1H-benzo[g]indol-1-yl)ethyl]acetamide as an amorphous, yellow solid which was processed without further purification.

reactant | N-[2-(4,5-Dihydro-5-methyl-1H-benzo[g]indol-1-yl)ethyl]acetamide | 5.0 g | CC1CC=2C=CN(C2C2=C1C=CC=C2)CCNC(C)=O | C17H20N2O
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 4.7 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.0 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(5-methyl-1H-benzo[g]indol-1-yl)ethyl]acetamide | 0.3 g, 6% | CC=1C=C2C=CN(C2=C2C1C=CC=C2)CCNC(C)=O | C17H18N2O
